US07307076B2
b) 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
0.6 g sodium borohydride are added at ambient temperature to a solution of 8.6 g (17 mmol) 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylimino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one in 80 mL ethanol and the mixture is stirred for one hour. The reaction mixture is combined with 20 mL acetone, stirred for 30 minutes, diluted with 50 ml of water and acidified with glacial acetic acid. After the organic solvents have been distilled off ethyl acetate is added to the aqueous residue. It is acidified with conc. hydrochloric acid and diluted with diethyl ether. The product precipitated as the hydrochloride is suction filtered and washed with acetone and diethyl ether. Yield: 8.4 g (91%, hydrochloride); melting range=215-218° C.

reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylimino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 17 mmol, 8.6 g | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(C(O2)(C)C)=O)C(C=NC(CC2=CC=C(C=C2)OC)(C)C)O | C30H34N2O5
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(C(O2)(C)C)=O)C(CNC(CC2=CC=C(C=C2)OC)(C)C)O | C30H36N2O5
